US08604034B2
A suspension 10a-(4-methylphenyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (100 mg, 0.25 mmol) in 1,4-dioxane (3 mL) was degassed by flushing the reaction vessel with argon for 20 minutes. Cesium carbonate (165 mg, 0.51 mmol) in water (100 μL) was added followed by 2-bromopyridine (29 μL, 0.30 mmol). The mixture was flashed with argon prior adding bis(diphenylphosphino)ferrocene]dichloropalladium(II) (18 mg, 0.025 mmol). The mixture was heated at 100° C. for 2 hours. Water was added (5 mL) and the mixture extracted with CH2Cl2 (5 mL). The organic layer was dried (MgSO4), filtrated and concentrated in vacuo to give a residue that was purified by flash chromatography (Biotage SP4 gradient 0-5% MeOH in CH2Cl2) to give 10a-(4-methylphenyl)-7-(pyridin-2-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (50 mg). The crude was used in the next step without purification. ESI-MI m/z [M+H]+ 345.1.

reactant | 10a-(4-methylphenyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.25 mmol, 100 mg | CC1=CC=C(C=C1)C12N(C(C=3N(C1)C=C(C3)B3OC(C(O3)(C)C)(C)C)=O)CCN2 | C22H28BN3O3
reactant | Cesium carbonate | 0.51 mmol, 165 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromopyridine | 0.30 mmol, 29 μL | BrC1=NC=CC=C1 | C5H4BrN
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 μL | O | H2O
catalyst | bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.025 mmol, 18 mg | Cl[Pd]Cl
product | 10a-(4-methylphenyl)-7-(pyridin-2-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 50 mg | CC1=CC=C(C=C1)C12N(C(C=3N(C1)C=C(C3)C3=NC=CC=C3)=O)CCN2 | C21H20N4O
